US08008525B2
(4-Isopropoxyphenyl)methanol
With ice cooling, to a solution of 4-isopropoxybenzaldehyde (0.93 g, 5.6 mmol) in methanol (20 mL) was added a solution of sodium tetrahydroborate (0.32 g, 11 mmol) in methanol (10 mL), and the mixture was stirred at room temperature for 4 hours. The mixture was acidified by adding 2 N hydrochloric acid to the reaction solution, and extracted with diethyl ether. The extract was washed with water, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=7:3) to give the title compound (0.76 g, yield 81%) as an oily matter.

reactant | 4-isopropoxybenzaldehyde | 5.6 mmol, 0.93 g | C(C)(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | sodium tetrahydroborate | 11 mmol, 0.32 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | (4-Isopropoxyphenyl)methanol | 0.76 g, yield 81% | C(C)(C)OC1=CC=C(C=C1)CO | C10H14O2
